US08440662B2
Step 1: 1-(5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-yl)ethanol
To a 50 mL round bottom flask, 5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-carbaldehyde (0.5 g, 0.001457 mol) and THF (25 mL) was added and cooled to 0° C. To the flask was slowly added 1.5 M methyl magnesium bromide in diethyl ether (0.145 mL, 0.002186 mol). The resulting reaction mixture was stirred at room temperature for 3 h. The reaction was quenched with water and extracted with ethyl acetate (3×50 mL). The organic layer was dried over anhydrous sodium sulfate and evaporated to provide the crude product. The crude product was purified by column chromatography using 60-120 silica gel and 40% ethyl acetate in hexane [0.3 g, 57%]. 1H NMR (300 MHz, CDCl3): δ 8.05 (d, J=1.2 Hz, 1H), 7.83 (d, J=6.3 Hz, 1H), 7.71 (dd, J′=6.6, J″=1.2 Hz, 1H), 6.82 (d, J=2.4 Hz, 1H), 6.40 (d, J=2.7 Hz, 1H), 4.91 (q, J=4.8 Hz, 1H), 3.89 (s, 8H), 1.63 (d, J=4.8 Hz, 3H). LC-MS (ESI): Calculated mass: 359. 1; Observed mass: 360.1 (RT: 1.58 min).

reactant | 5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-carbaldehyde | 0.001457 mol, 0.5 g | ClC1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C1=CC=C(O1)C=O | C17H14ClN3O3
reactant | methyl magnesium bromide | 1.5 M | C[Mg]Br
reactant | diethyl ether | 0.002186 mol, 0.145 mL | C(C)OCC | C4H10O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-(5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-yl)ethanol | ClC1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C1=CC=C(O1)C(C)O | C18H18ClN3O3
